US07932277B2
Tert-butyl (1R,2R)-1-(cyclopropylsulfonylcarbamoyl)-2-ethylcyclopropylcarbamate (0.53 g, 1.60 mmol) was dissolved in 4 N HCl in dioxane (20 mL) and stirred at rt for 5 hour. Removal of solvent gave (1R,2R)-1-amino-N-(cyclopropylsulfonyl)-2-ethylcyclopropanecarboxamide dihydrchloride as a white foamy solid. It was used directly in the next step without further purification.

reactant | Tert-butyl (1R,2R)-1-(cyclopropylsulfonylcarbamoyl)-2-ethylcyclopropylcarbamate | 1.60 mmol, 0.53 g | C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)CC)NC(OC(C)(C)C)=O | C14H24N2O5S
solvent | HCl | 4 N | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (1R,2R)-1-amino-N-(cyclopropylsulfonyl)-2-ethylcyclopropanecarboxamide | N[C@]1([C@@H](C1)CC)C(=O)NS(=O)(=O)C1CC1 | C9H16N2O3S
